US07776875B2
To dry tetrahydrofuran (200 mL) was added 1M THF solution of LiHMDS (210 mL, 210 mmol) under Ar protection at room temperature, followed by the addition of 2-chloro-5-fluoro-benzaldehyde (33 g, 210 mmol). After the mixture was stirred at room temperature for 1 h, trimethylsilyl chloride (26.6 mL, 210 mmol) was added dropwise. Then the temperature of the mixture was lowered to 0° C. on a cooling ice bath. To this mixture was added triethylamine (38 mL, 273 mmol) in one portion, followed by the dropwise addition of a solution of acetyl chloride (20 mL, 273 mmol) in diethyl ether (500 mL). The cooling bath was removed, and the mixture was stirred at room temperature for 4 h. The mixture was quickly filtered on celite under nitrogen, and filtrate was concentrated under reduced pressure to give crude 1-(2-chloro-5-fluoro-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | LiHMDS | 210 mmol, 210 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-chloro-5-fluoro-benzaldehyde | 210 mmol, 33 g | ClC1=C(C=O)C=C(C=C1)F | C7H4ClFO
reactant | trimethylsilyl chloride | 210 mmol, 26.6 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 273 mmol, 38 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 273 mmol, 20 mL | C(C)(=O)Cl | C2H3ClO
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
solvent | THF | 1M | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1-(2-chloro-5-fluoro-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC1=C(C=C(C=C1)F)C=NC(=C)O[Si](C)(C)C | C12H15ClFNOSi
